US06303783B1
Preparation of N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluoropheny}-(thiocarbamoyl)}-β-alanine, methyl ester
A solution of 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate (6.0 g, 15.8 mmol) and β-alanine, methyl ester, hydrochloride salt (2.65 g, 19.0 mmol) in acetone is cooled to 0° C., treated dropwise with a solution of triethylamine (1.92 g, 19.0 mmol) in methylene chloride, stirred overnight at room temperature, and poured into water. The resultant aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with 5% hydrochloric acid and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a brown foam. Flash column chromatography of the foam using silica gel and a (9:1) methylene chloride/diethyl ether solution gives the title product as an off-white foam (5.68 g, 74.4% yield, mp 110° C.) which is identified by 1H NMR spectral analysis.

reactant | 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate | 15.8 mmol, 6.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C=S | C13H6ClF4N3O2S
reactant | β-alanine, methyl ester, hydrochloride salt | 19.0 mmol, 2.65 g | Cl.NCCC(=O)OC
reactant | triethylamine | 19.0 mmol, 1.92 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride diethyl ether | C(Cl)Cl.C(C)OCC
product | N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluoropheny}-(thiocarbamoyl)}-β-alanine, methyl ester | 5.68 g, 74.4% yield | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=S)NCCC(=O)OC | C17H15ClF4N4O4S
